US07846956B2
2.47 g of (5-trifluoromethyl-isoxazol-3-yl)methanol was dissolved in 80 ml of diethyl ether, and 6.56 g of triphenylphosphine and 8.9 g of carbon tetrabromide were then added. The mixture was stirred at room temperature for 1 hour. The reaction mixture was subjected to silica gel column chromatography to obtain 1.14 g of 3-(bromomethyl)-5-trifluoromethylisoxazole.

reactant | (5-trifluoromethyl-isoxazol-3-yl)methanol | 2.47 g | FC(C1=CC(=NO1)CO)(F)F | C5H4F3NO2
reactant | triphenylphosphine | 6.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 8.9 g | C(Br)(Br)(Br)Br | CBr4
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | 3-(bromomethyl)-5-trifluoromethylisoxazole | 1.14 g | BrCC1=NOC(=C1)C(F)(F)F | C5H3BrF3NO
